US05093364
A mixture of phthalic anhydride (4.8 g) and 4-fluoroanthranilic acid (5 g) in dichloromethane (100 ml) was stirred at room temperature for 48 hours and the solid collected and washed with dichloromethane to give N-(2-carboxybenzoyl)-4-fluoroanthranilic acid, m.p. 187°-188°. (Compound 1).

reactant | phthalic anhydride | 4.8 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 4-fluoroanthranilic acid | 5 g | FC=1C=C(C(C(=O)O)=CC1)N | C7H6FNO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(2-carboxybenzoyl)-4-fluoroanthranilic acid | C(=O)(O)C1=C(C(=O)NC=2C(C(=O)O)=CC=C(C2)F)C=CC=C1 | C15H10FNO5
